US07109354B2
c) 3-[3′-(5-Carbamimidoyl-2-methylsulfanyl-thiophene-3-sulfonyl)-6-methyl-biphenyl-2-ylmethoxy]-propionic acid
A mixture of 3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-ylmethoxy}-propionic acid (5.1 mg, 8.4 μmol) in TFA/DCM (1:1, 1.5 mL) was stirred at ambient temperature for 1 h. The mixture was concentrated and flash chromatographed on silica gel, eluting with MeOH/DCM (5 to 12%) to give the title compound (3.0 mg, 69% yield) as a white solid.

reactant | 3-{3′-[5-(tert-butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-biphenyl-2-ylmethoxy}-propionic acid | 8.4 μmol, 5.1 mg | C(C)(C)(C)OC(=O)NC(C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)COCCC(=O)O)=N | C28H32N2O7S3
solvent | TFA DCM | 1.5 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-[3′-(5-Carbamimidoyl-2-methylsulfanyl-thiophene-3-sulfonyl)-6-methyl-biphenyl-2-ylmethoxy]-propionic acid | 3.0 mg, 69% yield | C(N)(=N)C1=CC(=C(S1)SC)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=CC=C1C)COCCC(=O)O | C23H24N2O5S3
